US08039450B2
To a solution of 4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzoic acid (200 mg, 0.74 mmol, 1.0 eq.), trimethyl borate (0.5 mL, 4.4 mmol, 6.0 eq.) in THF (7.0 mL) was added borane tetrahydrofuran complex solution (1.5 mL, 1.0 M in THF, 1.5 mmol, 2.0 eq.) dropwise under nitrogen atmosphere. The mixture was stirred at room temperature overnight. The mixture was carefully treated with MeOH (2 mL) and poured into EtOAc (10 mL) and sat. NaHCO3 (10 mL). The layers were separated and the aqueous phase was extracted with EtOAc (3×10 mL). Combined organic extracts was washed with brine (10 mL), dried over MgSO4, filtered and the filtrate was concentrated under reduced pressure. The residue was applied to silica chromatography eluting with MeOH/DCM (0:100 to 10:90) to give 5-(4-hydroxymethyl-phenoxy)-3H-benzo[c][1,2]oxaborol-1-ol as a white solid. LCMS (m/z) 279 (M+23); 1H NMR (DMSO-d6) δ: 9.09 (s, 1H), 7.70 (d, J=8.0 Hz, 1H), 7.34-7.38 (m, J=8.7 Hz, 2H), 7.01-7.05 (m, 2H), 6.96 (dd, J=8.0, 2.1 Hz, 1H), 6.91-6.93 (m, 1H), 5.18 (t, J=5.7 Hz, 1H), 4.91 (s, 2H), 4.49 (d, J=5.7 Hz, 2H).

reactant | 4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzoic acid | 0.74 mmol, 200 mg, 1.0 eq. | OB1OCC2=C1C=CC(=C2)OC2=CC=C(C(=O)O)C=C2 | C14H11BO5
reactant | trimethyl borate | 4.4 mmol, 0.5 mL, 6.0 eq. | B(OC)(OC)OC | C3H9BO3
reactant | MeOH | 2 mL | CO | CH4O
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 7.0 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 5-(4-hydroxymethyl-phenoxy)-3H-benzo[c][1,2]oxaborol-1-ol | OCC1=CC=C(OC2=CC3=C(B(OC3)O)C=C2)C=C1 | C14H13BO4
